US06930109B2
8-Allyl-4-oxo-7-(2,2,2-trifluoro-acetylamino)-4H-chromene-2-carboxylic acid ethyl ester
To 8-allyl-7-amino-4-oxo-4H-chromene-2-carboxylic acid ethyl ester (8.6 g, 32 mmole) in 400 mL of methylene chloride was added first N,N-diisopropyl-ethylamine (6.5 g, 50 mmole) and then, while cooling the mixture in an ice bath, trifluoroacetic anhydride (10.5 g, 50 mmole). The mixture was stirred at room temperature for one hour, then washed with 200 mL portions of 2 N aqueous HCl, saturated aqueous sodium bicarbonate, and saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum to give 12.2 g of the title compound as a pale yellow solid, m.p. 136-137° C.

reactant | 8-allyl-7-amino-4-oxo-4H-chromene-2-carboxylic acid ethyl ester | 32 mmole, 8.6 g | C(C)OC(=O)C=1OC2=C(C(=CC=C2C(C1)=O)N)CC=C | C15H15NO4
reactant | N,N-diisopropyl-ethylamine | 50 mmole, 6.5 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic anhydride | 50 mmole, 10.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 8-Allyl-4-oxo-7-(2,2,2-trifluoro-acetylamino)-4H-chromene-2-carboxylic acid ethyl ester | 12.2 g | C(C)OC(=O)C=1OC2=C(C(=CC=C2C(C1)=O)NC(C(F)(F)F)=O)CC=C | C17H14F3NO5
